US09334263B2
To a solution of tert-butyl 4-(5-benzoylpyrimidin-2-yl)piperazine-1-carboxylate (957 mg, 2.6 mmol) in dioxane (20 mL) was added 4 M HCl-dioxane (20 mL). The reaction mixture was stirred at room temperature overnight and concentrated to afford crude phenyl(2-(piperazin-1-yl)pyrimidin-5-yl)methanone which was used in the next step directly.

reactant | tert-butyl 4-(5-benzoylpyrimidin-2-yl)piperazine-1-carboxylate | 2.6 mmol, 957 mg | C(C1=CC=CC=C1)(=O)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H24N4O3
reactant | HCl dioxane | 4 M, 20 mL | Cl.O1CCOCC1
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | phenyl(2-(piperazin-1-yl)pyrimidin-5-yl)methanone | C1(=CC=CC=C1)C(=O)C=1C=NC(=NC1)N1CCNCC1 | C15H16N4O
